US08957203B2
6-methoxy-4-(1H-pyrazol-1-yl) isoquinolin-1(2H)-one (0.25 g, 1.036 mmol) was taken in phosphorous oxychloride (5 mL) and stirred for 1 h at 100° C. The volatiles were evaporated and the crude was poured into ice. The pH was adjusted to 9.0, extracted with ethyl acetate and washed with brine solution. The organic layer was dried over anhydrous sodium sulfate, filtered, concentrated under reduced pressure. The crude product was purified by silica gel chromatrography using 10% Ethyl acetate in Pet-ether to get 1-chloro-6-methoxy-4-(1H-pyrazol-1-yl)isoquinoline (0.019 g, 0.062 mmol, 6.00% yield) as solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.77-8.84 (m, 2H) 8.74-8.84 (m, 1H) 8.52-8.58 (m, 2H) 8.52-8.57 (m, 1H) 8.28-8.34 (m, 1H) 8.27-8.34 (m, 2H) 7.90-7.96 (m, 1H) 7.77-7.83 (m, 1H) 7.46-7.52 (m, 1H) 7.32-7.38 (m, 1H) 6.58-6.66 (m, 1H) 3.96 (s, 3H). MS: MS m/z 260.10 (M++1).

reactant | 6-methoxy-4-(1H-pyrazol-1-yl) isoquinolin-1(2H)-one | 1.036 mmol, 0.25 g | COC=1C=C2C(=CNC(C2=CC1)=O)N1N=CC=C1 | C13H11N3O2
reactant | phosphorous oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-6-methoxy-4-(1H-pyrazol-1-yl)isoquinoline | 0.062 mmol, 0.019 g, 6.00% yield | ClC1=NC=C(C2=CC(=CC=C12)OC)N1N=CC=C1 | C13H10ClN3O
